US08729102B2
A) 2-[5-(benzyloxy)pyridin-2-yl]-6-(cyclopropylmethoxy)-2H-indazole
Using 6-(cyclopropylmethoxy)-1H-indazole and 5-(benzyloxy)-2-chloropyridine, and in the same manner as in Example 13, step B, the title compound was obtained.

reactant | 6-(cyclopropylmethoxy)-1H-indazole | C1(CC1)COC1=CC=C2C=NNC2=C1 | C11H12N2O
reactant | 5-(benzyloxy)-2-chloropyridine | C(C1=CC=CC=C1)OC=1C=CC(=NC1)Cl | C12H10ClNO
product | 2-[5-(benzyloxy)pyridin-2-yl]-6-(cyclopropylmethoxy)-2H-indazole | C(C1=CC=CC=C1)OC=1C=CC(=NC1)N1N=C2C=C(C=CC2=C1)OCC1CC1 | C23H21N3O2
